US04247556
1-(2-Diethylaminoethyl)-2-hydroxy-6-methoxy-7-aza-benzimidazole
The filtrated hydrogenation solution from 28 grams of 2-(diethylaminoethylamino)-3-nitro-6-methoxypyridine in 450 ml of dioxane (10 grams Raney nickel, 50 bar and 65° C.) were treated under stirring with 11.25 grams of ethyl chloroformate. After 3 hours stirring the open carbethoxy compound was filtered off and heated to 180° C. under stirring and held at this temperature for one hour. The cooled melt was recrystallized from isopropanol.

reactant | 2-(diethylaminoethylamino)-3-nitro-6-methoxypyridine | 28 grams | C(C)N(CC)CCNC1=NC(=CC=C1[N+](=O)[O-])OC | C12H20N4O3
reactant | ethyl chloroformate | 11.25 grams | ClC(=O)OCC | C3H5ClO2
solvent | dioxane | 450 ml, 10 grams | O1CCOCC1 | C4H8O2
product | 1-(2-Diethylaminoethyl)-2-hydroxy-6-methoxy-7-aza-benzimidazole | C(C)N(CCN1C(=NC2=C1N=C(C=C2)OC)O)CC | C13H20N4O2
